US07713996B2
A solution of 4-[(1,2,3,4-tetrahydro-quinoline-7-carbonyl)-amino]-benzoic acid ethyl ester (140 mg, 0.43 mmol) in dichloromethane (5 ml) and pyridine (0.15 ml) was treated with 5-chloro-2-methoxy-benzenesulfonyl chloride (159 mg, 0.66 mmol, 1.5 equiv.) and stirred at room temperature for 17 hours. The solvent was then evaporated and the residue purified by flash chromatography (dichloromethane/ether 9:1) to yield 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-benzoic acid ethyl ester as a white foam, 227 mg (100%). MS (ISP): m/e=527.2 (M−H); δH (300 MHz; d6-DMSO) 10.5 (1H, s), 8.02 (1H, d), 7.96 (2H, d), 7.93 (2H, d), 7.85 (1H, d), 7.72 (1H, dd), 7.67 (1H, dd), 7.30 (1H, d), 7.23 (1H, d), 4.30 (2H, q), 3.78 (2H, m), 2.75 (2H, t), 1.74 (2H, m), 1.32 (3H, t).

reactant | 4-[(1,2,3,4-tetrahydro-quinoline-7-carbonyl)-amino]-benzoic acid ethyl ester | 0.43 mmol, 140 mg | C(C)OC(C1=CC=C(C=C1)NC(=O)C1=CC=C2CCCNC2=C1)=O | C19H20N2O3
reactant | 5-chloro-2-methoxy-benzenesulfonyl chloride | 0.66 mmol, 159 mg, 1.5 equiv. | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6Cl2O3S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | pyridine | 0.15 ml | N1=CC=CC=C1 | C5H5N
product | 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(=O)C1=CC=C2CCCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC)=O | C26H25ClN2O6S
